US06908931B2
1-(2,2-diphenyleth-1-yl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline.
A solution of 3,3-diphenylpropionaldehyde (19.25 g, 91.54 mmoles) and 2-(3,4-dimethoxyphenyl)ethylamine (16.59 g, 1 equiv.) in 90% formic acid 125 mL) was heated at 95° C. for 16 hours. Upon cooling to room temperature, the solvent was removed on the rotary evaporator, and the residue was partitioned between ethyl acetate and 1M sodium hydroxide. The organic phase was washed with 1M sodium hydroxide and brine, dried over sodium sulfate, and evaporated to give a thick gum. The product was purified by flash chromatography on silica gel, eluting with 20:1 ethyl acetate/methanol, to give a thick gum that solidified upon standing (17.01 g, 50%). 1H-NMR (CDCl3) δ 2.42 (m, 1H), 2.53 (m, 1H), 2.67 (m, 2H), 2.98 (m, 1H), 3.18 (m, 1H), 3.77 (ABq, 1H), 3.84 and 3.88 (s, each 3H), 4.48 (ABq, 1H), 6.46 and 6.57 (s, each 1H), 7.32 (m, 10 H). Mass spec. 374.2 (MH)+.

reactant | 3,3-diphenylpropionaldehyde | 91.54 mmoles, 19.25 g | C1(=CC=CC=C1)C(CC=O)C1=CC=CC=C1 | C15H14O
reactant | 2-(3,4-dimethoxyphenyl)ethylamine | 16.59 g, 1 equiv. | COC=1C=C(C=CC1OC)CCN | C10H15NO2
solvent | formic acid | 125 mL | C(=O)O | CH2O2
product | 1-(2,2-diphenyleth-1-yl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | C1(=CC=CC=C1)C(CC1NCCC2=CC(=C(C=C12)OC)OC)C1=CC=CC=C1 | C25H27NO2
